US04610997
83.3 Grams (0.324 mole) of 2-tert-butyl-3-(4-chlorophenyl)-3-hydroxypropionic acid and 125 g (0.77 mole) of 1,1'-carbonyldiimidazole were mixed with 700 ml of tetrahydrofuran, and the mixture was heated under reflux for 3 hours with stirring. After concentrating the reaction solution under reduced pressure, water and then diethyl ether were added to the residue which was then washed with water. The ether layer was separated and concentrated to form crystals with a small amount of ether left in the system. The crystal was filtered off and washed with a small amount of ether to obtain 50.6 g (38.5%) of N-{2-tert-butyl-3-(4-chlorophenyl)-3-(1-imidazolylcarbonyloxy)propanoyl}-imidazole. m.p., 69°-71° C.

reactant | 2-tert-butyl-3-(4-chlorophenyl)-3-hydroxypropionic acid | 0.324 mole | C(C)(C)(C)C(C(=O)O)C(O)C1=CC=C(C=C1)Cl | C13H17ClO3
reactant | 1,1'-carbonyldiimidazole | 0.77 mole, 125 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | N-{2-tert-butyl-3-(4-chlorophenyl)-3-(1-imidazolylcarbonyloxy)propanoyl}-imidazole | 50.6 g, 38.5% | C(C)(C)(C)C(C(=O)N1C=NC=C1)C(OC(=O)N1C=NC=C1)C1=CC=C(C=C1)Cl | C20H21ClN4O3
